### PR TITLE
[Merged by Bors] - feat(SetTheory/Ordinal/Nimber/Field): Nimber division

### PR DESCRIPTION
**Pull request by vihdzp**
We define the nimber inverse and use it to prove nimbers are a field.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/SetTheory/Nimber/Field.lean [hunk 1]
```diff
@@ -218,4 +218,123 @@ instance : CommRing Nimber where
...
 
+/-! ### Nimber division -/
+
+/-- The nimber inverse `a⁻¹` is recursively defined as the smallest nimber not in the set `s`, which
+itself is recursively defined as the smallest set with `0 ∈ s` and `(1 + (a + a') * b) / a' ∈ s`
+for `0 < a' < a` and `b ∈ s`.
+
+This preliminary definition "accidentally" satisfies `inv 0 = 1`, which the real inverse corrects.
+-/
+def inv (a : Nimber) : Nimber :=
```
Comment (eric-wieser) [inline Mathlib/SetTheory/Nimber/Field.lean:229]: I'm confused; is this "the nimber inverse" or "an preliminary construction used to define the nimber inverse"? If the latter, can you rename this to `invAux` or `invNonzero` or similar?

File: Mathlib/SetTheory/Nimber/Field.lean [hunk 2]
```diff
@@ -218,4 +218,123 @@ instance : CommRing Nimber where
...
+  sInf (⋂₀ {s | 0 ∈ s ∧ ∀ a' < a, a' ≠ 0 → ∀ b ∈ s, inv a' * (1 + (a + a') * b) ∈ s})ᶜ
+termination_by a
+
+/-- The set in the definition of `inv a`. -/
+def invSet (a : Nimber) : Set Nimber :=
+  ⋂₀ {s | 0 ∈ s ∧ ∀ a' < a, a' ≠ 0 → ∀ b ∈ s, inv a' * (1 + (a + a') * b) ∈ s}
```
Comment (eric-wieser) [inline Mathlib/SetTheory/Nimber/Field.lean:235]: You can avoid some repetition here with
```suggestion
mutual

def inv (a : Nimber) : Nimber :=
  sInf (invSet a)ᶜ
termination_by (a, 1)

/-- The set in the definition of `inv a`. -/
def invSet (a : Nimber) : Set Nimber :=
  ⋂₀ {s | 0 ∈ s ∧ ∀ a' < a, a' ≠ 0 → ∀ b ∈ s, inv a' * (1 + (a + a') * b) ∈ s}
termination_by (a, 0)

end
```

Comment (vihdzp) [reply Mathlib/SetTheory/Nimber/Field.lean:235]: Really cool usage of mutual induction!

File: Mathlib/SetTheory/Nimber/Field.lean (hunk 1 above)
Comment (vihdzp) [reply Mathlib/SetTheory/Nimber/Field.lean:229]: Well, it's the nimber inverse modulo a different convention for division by zero. I guess by Lean standards this means it's just a preliminary construction, so I'll rename to `invAux`.

File: Mathlib/SetTheory/Nimber/Field.lean [hunk 3]
```diff
@@ -8,7 +8,7 @@ import Mathlib.SetTheory.Nimber.Basic
 import Mathlib.Tactic.Abel
 
 /-!
-# Nimber multiplication
+# Nimber multiplication and division
```
Comment (eric-wieser) [inline Mathlib/SetTheory/Nimber/Field.lean:11]: Can you remove the todo?

File: Mathlib/SetTheory/Nimber/Field.lean [hunk 4]
```diff
@@ -218,4 +217,127 @@ instance : CommRing Nimber where
...
+/-! ### Nimber division -/
+
+mutual
+
+/-- The nimber inverse `a⁻¹` is recursively defined as the smallest nimber not in the set `s`, which
+itself is recursively defined as the smallest set with `0 ∈ s` and `(1 + (a + a') * b) / a' ∈ s`
+for `0 < a' < a` and `b ∈ s`.
+
+This preliminary definition "accidentally" satisfies `invAux 0 = 1`, which the real inverse
+corrects. -/
```
Comment (b-mehta) [inline Mathlib/SetTheory/Nimber/Field.lean:229]:
```suggestion
/-- The nimber inverse `a⁻¹` is recursively defined as the smallest nimber not in the set `s`, which
itself is recursively defined as the smallest set with `0 ∈ s` and `(1 + (a + a') * b) / a' ∈ s`
for `0 < a' < a` and `b ∈ s`.

This preliminary definition "accidentally" satisfies `invAux 0 = 1`, which the real inverse
corrects. The lemma `inv_eq_invAux` can be used to transfer between the two. -/
```

File: Mathlib/SetTheory/Nimber/Field.lean [hunk 5]
```diff
@@ -8,15 +8,14 @@ import Mathlib.SetTheory.Nimber.Basic
...
+# Nimber multiplication and division
 
 The nim product `a * b` is recursively defined as the least nimber not equal to any
 `a' * b + a * b' + a' * b'` for `a' < a` and `b' < b`. When endowed with this operation, the nimbers
 form a field.
 
 ## Todo
 
-- Define nim division and prove nimbers are a field.
 - Show the nimbers are algebraically closed.
```
Comment (b-mehta) [inline Mathlib/SetTheory/Nimber/Field.lean:19]: The definition you've given for inv is very nice; I think an implementation note to explain what you did (essentially mimicking the docstring for invAux and mentioning that it's mutually recursive) could be nice.

File: Mathlib/SetTheory/Nimber/Field.lean [hunk 6]
```diff
@@ -218,4 +217,127 @@ instance : CommRing Nimber where
...
+This preliminary definition "accidentally" satisfies `invAux 0 = 1`, which the real inverse
+corrects. -/
+def invAux (a : Nimber) : Nimber :=
+  sInf (invSet a)ᶜ
+termination_by (a, 1)
+
+/-- The set in the definition of `invAux a`. -/
+def invSet (a : Nimber) : Set Nimber :=
+  ⋂₀ {s | 0 ∈ s ∧ ∀ a' < a, a' ≠ 0 → ∀ b ∈ s, invAux a' * (1 + (a + a') * b) ∈ s}
+termination_by (a, 0)
```
Comment (b-mehta) [inline Mathlib/SetTheory/Nimber/Field.lean:237]:
```suggestion
/-- The set in the definition of `invAux a`. -/
def invSet (a : Nimber) : Set Nimber :=
  ⋂₀ {s | 0 ∈ s ∧ ∀ a' < a, a' ≠ 0 → ∀ b ∈ s, sInf (invSet a')ᶜ * (1 + (a + a') * b) ∈ s}
termination_by (a, 0)
```
What breaks if I try to define it like this? Doing it this way seems cleaner imo, so you can avoid the mutual recursion. But I can believe that something breaks down the line - if so let's add a comment explaining that.

File: Mathlib/SetTheory/Nimber/Field.lean [hunk 7]
```diff
@@ -218,4 +217,127 @@ instance : CommRing Nimber where
...
+    (hx : x ∈ invSet a) : p x := by
+  revert x
+  rw [invSet]
+  exact Set.sInter_subset_of_mem ⟨h0, hi⟩
+
+/--- An auxiliary type for enumerating the elements of `invSet`, and proving that its complement
+is nonempty. -/
+private inductive InvTy (a : Nimber.{u}) : Type u
+  | zero : InvTy a
+  | cons : (toOrdinal a).toType → InvTy a → InvTy a
```
Comment (b-mehta) [inline Mathlib/SetTheory/Nimber/Field.lean:264]: isn't this isomorphic to `List (toOrdinal a).toType`?

File: Mathlib/SetTheory/Nimber/Field.lean [hunk 8]
```diff
@@ -218,4 +217,127 @@ instance : CommRing Nimber where
 instance : IsDomain Nimber where
 instance : CancelMonoidWithZero Nimber where
 
+/-! ### Nimber division -/
+
+mutual
+
+/-- The nimber inverse `a⁻¹` is recursively defined as the smallest nimber not in the set `s`, which
```
Comment (b-mehta) [inline Mathlib/SetTheory/Nimber/Field.lean:224]:
```suggestion
/-- The nimber inverse `a⁻¹` is mutually recursively defined as the smallest nimber not in the set `s`, which
```
or some alternate wording - ultimately I think it'd be good to mention that this is a mutually recursive definition, not just regular recursive

File: Mathlib/SetTheory/Nimber/Field.lean (hunk 6 above)
Comment (vihdzp) [reply Mathlib/SetTheory/Nimber/Field.lean:237]: This is very similar to what I initially had, it was @eric-wieser's suggestion to use mutual induction.

I do prefer the mutual induction approach since it gives nicer results when doing `rw [invSet]` or `rw [invAux]`.

File: Mathlib/SetTheory/Nimber/Field.lean (hunk 7 above)
Comment (vihdzp) [reply Mathlib/SetTheory/Nimber/Field.lean:264]: Nice catch! I guess my usage of `cons` should have given that away...

File: Mathlib/SetTheory/Nimber/Field.lean (hunk 5 above)
Comment (vihdzp) [reply Mathlib/SetTheory/Nimber/Field.lean:19]: This definition is "standard", in the sense that every reference which defines the nimber inverse explicitly uses it. Though a few references instead define it indirectly via the ironically more technical simplicity theorem. I'll add a docstring explaining this.

File: Mathlib/SetTheory/Nimber/Field.lean (hunk 6 above)
Comment (b-mehta) [reply Mathlib/SetTheory/Nimber/Field.lean:237]: I think the key distinction is that this version means you only need to state the set once, rather than twice in your original. But yeah the mutual induction is nice enough

File: Mathlib/SetTheory/Nimber/Field.lean (hunk 5 above)
Comment (b-mehta) [reply Mathlib/SetTheory/Nimber/Field.lean:19]: Oh sorry, I mean your implementation of the definition (mutual induction and then putting an if/then on top)

File: Mathlib/SetTheory/Nimber/Field.lean [hunk 9]
```diff
@@ -218,4 +222,124 @@ instance : CommRing Nimber where
...
+This preliminary definition "accidentally" satisfies `invAux 0 = 1`, which the real inverse
+corrects. The lemma `inv_eq_invAux` can be used to transfer between the two. -/
+def invAux (a : Nimber) : Nimber :=
+  sInf (invSet a)ᶜ
+termination_by (a, 1)
+
+/-- The set in the definition of `invAux a`. -/
+def invSet (a : Nimber) : Set Nimber :=
+  ⋂₀ {s | 0 ∈ s ∧ ∀ a' < a, a' ≠ 0 → ∀ b ∈ s, invAux a' * (1 + (a + a') * b) ∈ s}
+termination_by (a, 0)
```
Comment (YaelDillies) [inline Mathlib/SetTheory/Nimber/Field.lean:242]: Can't these two defs be made `private`? Do you have plans to use them in later files?

File: Mathlib/SetTheory/Nimber/Field.lean [hunk 10]
```diff
@@ -218,4 +222,124 @@ instance : CommRing Nimber where
...
+    (hi : ∀ a' < a, a' ≠ 0 → ∀ b, p b → p (invAux a' * (1 + (a + a') * b))) (x : Nimber)
+    (hx : x ∈ invSet a) : p x := by
+  revert x
+  rw [invSet]
+  exact Set.sInter_subset_of_mem ⟨h0, hi⟩
+
+/-- An enumeration of elements in `invSet` by a type in the same universe. -/
+private def List.toNimber {a : Nimber} : List a.toOrdinal.toType → Nimber
+  | [] => 0
+  | x::l =>
```
Comment (YaelDillies) [inline Mathlib/SetTheory/Nimber/Field.lean:268]:
```suggestion
  | x :: l =>
```

File: Mathlib/SetTheory/Nimber/Field.lean [hunk 11]
```diff
@@ -218,4 +222,124 @@ instance : CommRing Nimber where
...
+    let a' := Ordinal.toNimber ((Ordinal.enumIsoToType a.toOrdinal).symm x)
+    invAux a' * (1 + (a + a') * (toNimber l))
```
Comment (YaelDillies) [inline Mathlib/SetTheory/Nimber/Field.lean:270]:
```suggestion
    invAux a' * (1 + (a + a') * toNimber l)
```

File: Mathlib/SetTheory/Nimber/Field.lean [hunk 12]
```diff
@@ -218,4 +222,124 @@ instance : CommRing Nimber where
...
+  rw [invAux]
+  exact csInf_mem (invSet_nonempty a)
+
+theorem invAux_mem_invSet_of_lt (ha : a ≠ 0) (hb : a < b) : invAux a ∈ invSet b := by
+  have H := cons_mem_invSet ha hb (zero_mem_invSet b)
+  rwa [mul_zero, add_zero, mul_one] at H
+
+/-- We set up a simultaneous induction to prove that `invAux a` is the inverse of `a`, and no
+element in its defining set `invSet a` is. -/
+private theorem mul_inv_cancel_aux (a : Nimber) :
```
Comment (kbuzzard) [inline Mathlib/SetTheory/Nimber/Field.lean:304]: Why is this and `invSet_nonempty` private, but other theorems are not? Are `invAux` and `invSet` part of the public API or not? This looks good to go but right now it looks like `private` is being applied kind of randomly? What is the logic here?

Comment (vihdzp) [reply Mathlib/SetTheory/Nimber/Field.lean:304]: `invSet_nonempty` is private since it's implied by `invAux_mem_invSet`, and likewise this is subsumed by `inv_eq_invAux`.

I did intend for `invSet` and `invAux` to be public API. I'm not sure if this characterization is ever the easiest way to find a nimber's inverse, but I do think that it's a nice theorem worth exposing.

File: Mathlib/SetTheory/Nimber/Field.lean (hunk 9 above)
Comment (vihdzp) [reply Mathlib/SetTheory/Nimber/Field.lean:242]: See my comment below, I don't have plans to use them but I do think they're still worth making public.

File: Mathlib/SetTheory/Nimber/Field.lean [hunk 13]
```diff
@@ -218,4 +222,124 @@ instance : CommRing Nimber where
...
+  | [] => 0
+  | x :: l =>
+    let a' := ∗((Ordinal.enumIsoToType a.toOrdinal).symm x)
+    invAux a' * (1 + (a + a') * toNimber l)
+
+instance (a : Nimber.{u}) : Small.{u} (invSet a) := by
+  refine @small_subset.{u, u + 1} _ _ _ ?_ (small_range (@List.toNimber a))
+  refine fun x hx ↦ invSet_recOn a ⟨[], rfl⟩ ?_ x hx
+  rintro a' ha _ _ ⟨l, rfl⟩
+  use (Ordinal.enumIsoToType _ ⟨toOrdinal a', ha⟩) :: l
```
Comment (YaelDillies) [inline Mathlib/SetTheory/Nimber/Field.lean:276]:
```suggestion
  use Ordinal.enumIsoToType _ ⟨toOrdinal a', ha⟩ :: l
```

**Review by YaelDillies — APPROVED** [review]
Thanks!

maintainer delegate

**Comment by kbuzzard** [comment]
bors merge
